US04929634
1-Benzyl-4,5-dibromo-2-(α,α,α-trifluoro-p-tolyl)pyrrole-3-carbonitrile
In a 100 mL flask, 1.5 g of 4,5-dibromo-2-(α,α,α-trifluoro-p-tolyl)pyrrole-3-carbonitrile is mixed with 50 mL dry THF to give a clear dark solution. 1 eq of KOtBu is added with stirring. After a few minutes the solution clears. Benzyl bromide (0.65 g) is added by syringe. The mixture is heated at reflux overnight. The following day TLC (50/50 EtOAc/hexane) indicates the presence of both starting material and product. The reaction is worked up in the following manner; 50 mL of water is added and the mixture is extracted with 4×50 mL CHCl3. The organic phases are combined and washed with 4×50 mL 10% aq. NaOH. The organic phase is dried with MgSO4 and stripped. This gives a brown solid which is crystallized from EtOAc/hexane.

reactant | 4,5-dibromo-2-(α,α,α-trifluoro-p-tolyl)pyrrole-3-carbonitrile | 1.5 g | BrC=1C(=C(NC1Br)C1=CC=C(C=C1)C(F)(F)F)C#N | C12H5Br2F3N2
reactant | THF | 50 mL | C1CCOC1 | C4H8O
reactant | KOtBu | 1 eq | CC(C)(C)[O-].[K+]
reactant | Benzyl bromide | 0.65 g | C(C1=CC=CC=C1)Br | C7H7Br
solvent | water | 50 mL | O | H2O
solvent | EtOAc hexane | CCOC(=O)C.CCCCCC
product | 1-Benzyl-4,5-dibromo-2-(α,α,α-trifluoro-p-tolyl)pyrrole-3-carbonitrile | C(C1=CC=CC=C1)N1C(=C(C(=C1Br)Br)C#N)C1=CC=C(C=C1)C(F)(F)F | C19H11Br2F3N2
